US05576343
20.0 g of Ferulic acid was dissolved in 250 ml of methanol and subjected to catalytic reduction under normal pressure for 3 hours in the presence of 10% palladium carbon catalyst (50% wet type). After removing the catalyst by filtration, the resulting filtrate was concentrated to collect precipitated crystals by filtration, thereby obtaining 19.3 g of 3-(4-hydroxy-3-methoxyphenyl)propionic acid.

reactant | Ferulic acid | 20.0 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 3-(4-hydroxy-3-methoxyphenyl)propionic acid | 19.3 g | OC1=C(C=C(C=C1)CCC(=O)O)OC | C10H12O4
